US07241791B2
Step 1: 3-(2,4-dimethoxyphenyl)-7-fluoro-2-isobutyl-2H-indazole
Prepared according to Method D step B from 3-(2,4-dimethoxyphenyl)-7-fluoro-1H-indazole (0.300 g, 1.10 mmol), sodium hydride (60% in oil, 0.058 g, 1.50 mmol) and 1-iodo-2-methylpropane (0.23 mL, 2.00 mmol) to give the title compound (0.046 g) as a white solid.

reactant | 3-(2,4-dimethoxyphenyl)-7-fluoro-1H-indazole | 1.10 mmol, 0.300 g | COC1=C(C=CC(=C1)OC)C1=NNC2=C(C=CC=C12)F | C15H13FN2O2
reactant | sodium hydride | 1.50 mmol, 0.058 g | [H-].[Na+]
reactant | 1-iodo-2-methylpropane | 2.00 mmol, 0.23 mL | ICC(C)C | C4H9I
product | 3-(2,4-dimethoxyphenyl)-7-fluoro-2-isobutyl-2H-indazole | 0.046 g | COC1=C(C=CC(=C1)OC)C=1N(N=C2C(=CC=CC12)F)CC(C)C | C19H21FN2O2
